US07482339B2
To the mixture of 1-naphthylamine (21.48 g), triethylamine (33.39 g), and dichloromethane (250 mL) was added a dicholomethane (50 mL) solution of thiophosgen (18.97 g) at bleow 20° C. over 30 minutes, and the mixture was stirred at room temperature. The reaction mixture was added into ice-water (1000 mL), extracted with diethyl ether (1000 mL). The extract was washed two times with brine (1000 mL), dried over anhydrous magnesium sulfate, evaporated under reduced pressure to obtain crude (1-naphthyl)isothiocyanate.

reactant | 1-naphthylamine | 21.48 g | C1(=CC=CC2=CC=CC=C12)N | C10H9N
reactant | triethylamine | 33.39 g | C(C)N(CC)CC | C6H15N
reactant | thiophosgen | 18.97 g | C(=S)(Cl)Cl | CCl2S
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | (1-naphthyl)isothiocyanate | C1(=CC=CC2=CC=CC=C12)N=C=S | C11H7NS
